US07470715B2
A solution of 1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-4-phenyl-isoxazol-5-yl}-cyclopropanecarbaldehyde, which may be produced as in Example 172 (20.38 g) in 300 mL tetrahydrofuran under an N2 atmosphere is cooled to 0° C. Ethylmagnesium bromide (53.4 mL, 1.0 M/methyl tert-butyl ether) is added over approximately 15 minutes. The reaction is stirred at 0° C. for 1 hour, 10 minutes. Saturated ammonium chloride (˜600 mL) is added and the product is extracted into ethyl acetate two times. The combined organic extracts are washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude material is purified by column chromatography (15% followed by 20% ethyl acetate/hexane) to obtain a viscous oil that partially solidified under house vacuum. The material is dried in a 50° C. vacuum oven for approximately 1 hour to give (±)-1-(1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-4-phenyl-isoxazol-5-yl}-cyclopropyl)-propan-1-ol as a waxy off-white solid.

reactant | 1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-4-phenyl-isoxazol-5-yl}-cyclopropanecarbaldehyde | C(C)(C)(C)[Si](OC1=CC=C(C=C1)C1=NOC(=C1C1=CC=CC=C1)C1(CC1)C=O)(C)C | C25H29NO3Si
reactant | Ethylmagnesium bromide | 1.0 M, 53.4 mL | C(C)[Mg]Br
reactant | ammonium chloride | ˜600 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | (±)-1-(1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-4-phenyl-isoxazol-5-yl}-cyclopropyl)-propan-1-ol | C(C)(C)(C)[Si](OC1=CC=C(C=C1)C1=NOC(=C1C1=CC=CC=C1)C1(CC1)C(CC)O)(C)C | C27H35NO3Si
